US04718934
2.80 g (11 mmol) of N-(2,4-dichlorobenzyl)-N-(pyrimidin-5-yl)amine are dissolved in 5 ml of glacial acetic acid and then 5 ml of acetic anhydride and 3 drops of concentrated sulfuric acid are added to the solution. With stirring, the reaction mixture is boiled under reflux for 11/2 hours and subsequently cooled. 30 ml of chloroform are added to the mixture, the acetic acid is removed by extraction with water and the separated solution of chloroform is dried over sodium sulfate. The sodium sulfate is filtered off and the chloroform is then evaporated off in vacuo at 80° C. and the residue is recrystallised from a mixture of 5 ml of toluene and 5 ml of cyclohexane, affording 2.23 g (68.5% of theory) of N-(2,4-dichlorobenzyl)-N-(pyrimidin-5-yl)acetamide, m.p. 134°-136° C. A further 0.90 g (27.6% of theory) of pure product is obtained by purifying the product formed in the filtrate through a column of silica gel (eluant: ethyl acetate).

reactant | N-(2,4-dichlorobenzyl)-N-(pyrimidin-5-yl)amine | 11 mmol, 2.80 g | ClC1=C(CNC=2C=NC=NC2)C=CC(=C1)Cl | C11H9Cl2N3
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
catalyst | sulfuric acid | 3 drops | S(O)(O)(=O)=O | H2O4S
product | N-(2,4-dichlorobenzyl)-N-(pyrimidin-5-yl)acetamide | 2.23 g, 68.5% | ClC1=C(CN(C(C)=O)C=2C=NC=NC2)C=CC(=C1)Cl | C13H11Cl2N3O
